US07863291B2
To thiazol-2-amine (2.12 g, 21.17 mmol) in acetonitrile (30 mL) and tetrahydrofuran (5 mL) was added di(1H-imidazol-1-yl)methanethione (4.90 g, 27.5 mmol). The reaction was stirred at 60° C. for 5 hours. The reaction was cooled to room temperature and the precipitate was filtered and washed with cold acetonitrile (2×15 mL) to afford an orange-brown powder. The product, N-(thiazol-2-yl)-1H-imidazole-1-carbothioamide (3.70 g, 17.60 mmol, 83% yield), was taken directly to the next step without any further characterization.

reactant | thiazol-2-amine | 21.17 mmol, 2.12 g | S1C(=NC=C1)N | C3H4N2S
reactant | di(1H-imidazol-1-yl)methanethione | 27.5 mmol, 4.90 g | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(thiazol-2-yl)-1H-imidazole-1-carbothioamide | 17.60 mmol, 3.70 g, 83% yield | S1C(=NC=C1)NC(=S)N1C=NC=C1 | C7H6N4S2
